US08802864B2
b) 4-[4-(1-benzofuran-6-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
A solution of 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one (0.235 mmol) in dioxane (1.5 mL) was treated with 1-benzofuran-6-yl trifluoromethanesulfonate (0.230 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)-dichloromethane adduct (11.5 mg), and 2M aq potassium carbonate (0.705 mmol). The reaction mixture was purged with nitrogen, sealed, and stirred at 100° C. overnight. The reaction mixture was cooled to room temperature and was diluted with water (50 mL). The aqueous layer was acidified to pH ˜4 using 1N aq HCl and was extracted with dichloromethane. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by flash chromatography (0-8% methanol/dichloromethane), followed by purification by reverse phase HPLC (LUNA C-18: 30×50 mm column; 20-45% acetonitrile w/0.1% TFA/water w/0.1% TFA). The combined product fractions were neutralized with the addition of saturated aqueous sodium bicarbonate, concentrated under reduced pressure, and extracted with dichloromethane. The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo to afford the title compound as an off-white amorphous solid (16 mg, 15% yield). MS(ES)+ m/e 428.9 [M+H]+.

reactant | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.235 mmol | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C23H31BN4O4
reactant | 1-benzofuran-6-yl trifluoromethanesulfonate | 0.230 mmol | FC(S(=O)(=O)OC1=CC2=C(C=CO2)C=C1)(F)F | C9H5F3O4S
reactant | potassium carbonate | 0.705 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane | 11.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 4-[4-(1-benzofuran-6-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 16 mg, 15% yield | O1C=CC2=C1C=C(C=C2)C2=CC=C(C=C2)N2C(NN=C2C[C@H]2CN(CC2)C(=O)C2CC2)=O | C25H24N4O3
